US04270002
Into a 500 ml four-necked flask, there were charged methylisobutylketone (150 ml), 1-phenylcyclopentylamine (24.3 g) and triethylamine (16.0 g), and trimethylacetyl chloride (18.0 g) was dropwise added thereto while stirring at room temperature. Stirring was continued for 3 hours. After completion of the reaction, water (200 ml) was added thereto and the reaction mixture was gradually heated to remove methylisobutylketone, followed by cooling at room temperature. The precipitated crystals were filtered, washed with water, dried and recrystallized from ethanol to give N-(1-phenylcyclopentyl)trimethylacetamide (33.4 g).

reactant | methylisobutylketone | 150 ml | CC(=O)CC(C)C | C6H12O
reactant | 1-phenylcyclopentylamine | 24.3 g | C1(=CC=CC=C1)C1(CCCC1)N | C11H15N
reactant | triethylamine | 16.0 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetyl chloride | 18.0 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | water | 200 ml | O | H2O
product | N-(1-phenylcyclopentyl)trimethylacetamide | 33.4 g | C1(=CC=CC=C1)C1(CCCC1)NC(C(C)(C)C)=O | C16H23NO
